* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_1MHz_Elliptical\LPFilter_1MHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 3.369n
C2 N002 N001 353.1p
L1 N002 N001 9.986µ
C3 N002 0 5.449n
C4 Vout1 N002 994.5p
L2 Vout1 N002 8.264µ
C5 Vout1 0 2.854n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 3.3n
C7 N004 N003 360p
L3 N004 N003 10µ Rser=0.068
C8 N004 0 5.6n
C9 Vout2 N004 1n
L4 Vout2 N004 8.2µ Rser=0.06
C10 Vout2 0 2.7n
RL1 Vout2 0 50
* .ac dec 100 500000 5000000
.ac dec 100 500000 5000000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
