* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_100kHz_Elliptical\LPFilter_100kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 33.69n
C2 N002 N001 3.531n
L1 N002 N001 99.86µ
C3 N002 0 54.49n
C4 Vout1 N002 9.945n
L2 Vout1 N002 82.64µ
C5 Vout1 0 28.54n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 33n
C7 N004 N003 3.6n
L3 N004 N003 100µ Rser=0.563
C8 N004 0 56n
C9 Vout2 N004 10n
L4 Vout2 N004 82µ Rser=0.16
C10 Vout2 0 27n
RL1 Vout2 0 50
* .ac dec 100 50000 500000
.ac dec 100 50000 500000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
