* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_10kHz_Elliptical\LPFilter_10kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 336.9n
C2 N002 N001 35.31n
L1 N002 N001 998.6µ
C3 N002 0 544.9n
C4 Vout1 N002 99.45n
L2 Vout1 N002 826.4µ
C5 Vout1 0 285.4n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 330n
C7 N004 N003 33n
L3 N004 N003 1m Rser=5.85
C8 N004 0 560n
C9 Vout2 N004 100n
L4 Vout2 N004 820µ Rser=4.45
C10 Vout2 0 270n
RL1 Vout2 0 50
* .ac dec 100 5000 50000
.ac dec 100 5000 50000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
