* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_1kHz_Elliptical\LPFilter_1kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 3.369µ
C2 N002 N001 353.1n
L1 N002 N001 9.986m
C3 N002 0 5.449µ
C4 Vout1 N002 994.5n
L2 Vout1 N002 8.264m
C5 Vout1 0 2.854µ
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 3.3µ
C7 N004 N003 330n
L3 N004 N003 10m Rser=14.2
C8 N004 0 5.6µ
C9 Vout2 N004 1µ
L4 Vout2 N004 8.2m Rser=10
C10 Vout2 0 2.7µ
RL1 Vout2 0 50
* .ac dec 100 500 5000
.ac dec 100 500 5000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
