* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_200kHz_Elliptical\LPFilter_200kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 16.84n
C2 N002 N001 1.765n
L1 N002 N001 49.93µ
C3 N002 0 27.24n
C4 Vout1 N002 4.972n
L2 Vout1 N002 41.32µ
C5 Vout1 0 14.27n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 18n
C7 N004 N003 1.8n
L3 N004 N003 47µ Rser=0.155
C8 N004 0 27n
C9 Vout2 N004 5.1n
L4 Vout2 N004 39µ Rser=0.85
C10 Vout2 0 15n
RL1 Vout2 0 50
* .ac dec 100 100000 1000000
.ac dec 100 100000 1000000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
