* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_20kHz_Elliptical\LPFilter_20kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 168.4n
C2 N002 N001 17.65n
L1 N002 N001 499.3µ
C3 N002 0 272.4n
C4 Vout1 N002 49.72n
L2 Vout1 N002 413.2µ
C5 Vout1 0 142.7n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 180n
C7 N004 N003 18n
L3 N004 N003 500µ Rser=9.027
C8 N004 0 270n
C9 Vout2 N004 51n
L4 Vout2 N004 390µ Rser=0.69
C10 Vout2 0 150n
RL1 Vout2 0 50
* .ac dec 100 10000 100000
.ac dec 100 10000 100000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
