* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_2kHz_Elliptical\LPFilter_2kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 1.684µ
C2 N002 N001 176.5n
L1 N002 N001 4.993m
C3 N002 0 2.724µ
C4 Vout1 N002 497.2n
L2 Vout1 N002 4.132m
C5 Vout1 0 1.427µ
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 1.5µ
C7 N004 N003 180n
L3 N004 N003 4.7m Rser=12.5
C8 N004 0 3.3µ
C9 Vout2 N004 470n
L4 Vout2 N004 4m Rser=12.35
C10 Vout2 0 1.5µ
RL1 Vout2 0 50
* .ac dec 100 1000 10000
.ac dec 100 1000 10000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
