* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_500kHz_Elliptical\LPFilter_500kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 6.737n
C2 N002 N001 706.2p
L1 N002 N001 19.97µ
C3 N002 0 10.90n
C4 Vout1 N002 1.989n
L2 Vout1 N002 16.53µ
C5 Vout1 0 5.709n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 6.8n
C7 N004 N003 680p
L3 N004 N003 22µ Rser=0.135
C8 N004 0 10n
C9 Vout2 N004 2n
L4 Vout2 N004 16µ Rser=0.0345
C10 Vout2 0 5.6n
RL1 Vout2 0 50
* .ac dec 100 200000 2000000
.ac dec 100 200000 2000000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
