* combined sim for 1MHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 3.369n
C2 N002 N001 353.1p
L1 N002 N001 9.986µ
C3 N002 0 5.449n
C4 Vout1 N002 994.5p
L2 Vout1 N002 8.264µ
C5 Vout1 0 2.854n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 3.3n
C7 N004 N003 360p
L3 N004 N003 10µ Rser=0.068
C8 N004 0 5.6n
C9 Vout2 N004 1n
L4 Vout2 N004 8.2µ Rser=0.06
C10 Vout2 0 2.7n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 3.3e-09
Cp2 P002 P001 3.3e-10
Lp1 P002 P001 10µ Rser=0.068
Cp3 P002 0 4.7e-09
Cp4 Vout3 P002 1e-09
Lp2 Vout3 P002 8.2µ Rser=0.06
Cp5 Vout3 0 2.2e-09
RLp Vout3 0 50
.ac dec 100 500000 5000000
.end