* combined sim for 100kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 33.69n
C2 N002 N001 3.531n
L1 N002 N001 99.86µ
C3 N002 0 54.49n
C4 Vout1 N002 9.945n
L2 Vout1 N002 82.64µ
C5 Vout1 0 28.54n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 33n
C7 N004 N003 3.6n
L3 N004 N003 100µ Rser=0.563
C8 N004 0 56n
C9 Vout2 N004 10n
L4 Vout2 N004 82µ Rser=0.16
C10 Vout2 0 27n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 3.3e-08
Cp2 P002 P001 3.3e-09
Lp1 P002 P001 100µ Rser=0.563
Cp3 P002 0 4.7e-08
Cp4 Vout3 P002 1e-08
Lp2 Vout3 P002 82µ Rser=0.16
Cp5 Vout3 0 2.2e-08
RLp Vout3 0 50
.ac dec 100 50000 500000
.end