* combined sim for 10kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 336.9n
C2 N002 N001 35.31n
L1 N002 N001 998.6µ
C3 N002 0 544.9n
C4 Vout1 N002 99.45n
L2 Vout1 N002 826.4µ
C5 Vout1 0 285.4n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 330n
C7 N004 N003 33n
L3 N004 N003 1m Rser=5.85
C8 N004 0 560n
C9 Vout2 N004 100n
L4 Vout2 N004 820µ Rser=4.45
C10 Vout2 0 270n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 2.2e-07
Cp2 P002 P001 3.3e-08
Lp1 P002 P001 1m Rser=5.85
Cp3 P002 0 4.7e-07
Cp4 Vout3 P002 1e-07
Lp2 Vout3 P002 820µ Rser=4.45
Cp5 Vout3 0 2.2e-07
RLp Vout3 0 50
.ac dec 100 5000 50000
.end