* combined sim for 1kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 3.369µ
C2 N002 N001 353.1n
L1 N002 N001 9.986m
C3 N002 0 5.449µ
C4 Vout1 N002 994.5n
L2 Vout1 N002 8.264m
C5 Vout1 0 2.854µ
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 3.3µ
C7 N004 N003 330n
L3 N004 N003 10m Rser=14.2
C8 N004 0 5.6µ
C9 Vout2 N004 1µ
L4 Vout2 N004 8.2m Rser=10
C10 Vout2 0 2.7µ
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 2.2e-06
Cp2 P002 P001 2.2e-07
Lp1 P002 P001 10m Rser=14.2
Cp3 P002 0 4.7e-06
Cp4 Vout3 P002 1e-06
Lp2 Vout3 P002 8.2m Rser=10
Cp5 Vout3 0 2.2e-06
RLp Vout3 0 50
.ac dec 100 500 5000
.end