* combined sim for 200kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 16.84n
C2 N002 N001 1.765n
L1 N002 N001 49.93µ
C3 N002 0 27.24n
C4 Vout1 N002 4.972n
L2 Vout1 N002 41.32µ
C5 Vout1 0 14.27n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 18n
C7 N004 N003 1.8n
L3 N004 N003 47µ Rser=0.155
C8 N004 0 27n
C9 Vout2 N004 5.1n
L4 Vout2 N004 39µ Rser=0.85
C10 Vout2 0 15n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 2.2e-08
Cp2 P002 P001 2.2e-09
Lp1 P002 P001 47µ Rser=0.155
Cp3 P002 0 2.2e-08
Cp4 Vout3 P002 4.7e-09
Lp2 Vout3 P002 39µ Rser=0.85
Cp5 Vout3 0 1e-08
RLp Vout3 0 50
.ac dec 100 100000 1000000
.end