* combined sim for 20kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 168.4n
C2 N002 N001 17.65n
L1 N002 N001 499.3µ
C3 N002 0 272.4n
C4 Vout1 N002 49.72n
L2 Vout1 N002 413.2µ
C5 Vout1 0 142.7n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 180n
C7 N004 N003 18n
L3 N004 N003 500µ Rser=9.027
C8 N004 0 270n
C9 Vout2 N004 51n
L4 Vout2 N004 390µ Rser=0.69
C10 Vout2 0 150n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 2.2e-07
Cp2 P002 P001 2.2e-08
Lp1 P002 P001 500µ Rser=9.027
Cp3 P002 0 2.2e-07
Cp4 Vout3 P002 4.7e-08
Lp2 Vout3 P002 390µ Rser=0.69
Cp5 Vout3 0 1e-07
RLp Vout3 0 50
.ac dec 100 10000 100000
.end